US04232024
7-Methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid.
4.5 g. Ethyl 8-methoxy-4-oxo-4H-pyrimido[2,1-b]-benzthiazole-3-carboxylate (prepared by the method described by Alaimo, J. Het. Chem., 10, 769/1973) are mixed with a mixture of 75 ml. 10% aqueous sodium hydroxide solution and 25 ml. ethanol and heated under reflux for 30 minutes. After neutralizing the reaction mixture with 2 N hydrochloric acid, 1-(2-mercapto-4-methoxyphenyl)-5-carboxypyrimidine-2,6-dione precipitates out. The yield is 3.5 g. (80% of theory); m.p. 266°-267° C. (decomp.).

reactant | Ethyl 8-methoxy-4-oxo-4H-pyrimido[2,1-b]-benzthiazole-3-carboxylate | COC1=CC2=C(N3C(S2)=NC=C(C3=O)C(=O)OCC)C=C1 | C14H12N2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | 1-(2-mercapto-4-methoxyphenyl)-5-carboxypyrimidine-2,6-dione | SC1=C(C=CC(=C1)OC)N1C(NC=C(C1=O)C(=O)O)=O | C12H10N2O5S
solvent | ethanol | C(C)O | C2H6O
product | 7-Methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid | COC1=CC2=C(N3C(S2)=C(C=NC3=O)C(=O)O)C=C1 | C12H8N2O4S
